US06670372B2
Using the general method of Example 12 Part A, 2-octyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline (4.84 g, 13.32 mmol) was reacted with iodobenzene (1.7 mL, 14.65 mmol) at 40° C. After 45 minutes the reaction was judged complete. The volatiles were removed under reduced pressure and the resulting oil purified by chromatography over silica gel (98/2 (dichloromethane/methanol) to provide 4.2 g of 2-octyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline as a pale yellow solid.

reactant | 2-octyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 13.32 mmol, 4.84 g | C(CCCCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C23H29N3O
reactant | iodobenzene | 14.65 mmol, 1.7 mL | IC1=CC=CC=C1 | C6H5I
product | 2-octyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinoline | 4.2 g | C(CCCCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#CC1=CC=CC=C1 | C29H33N3O
